US06747022B2
Preparation of calcium (R)-(−)-3-[3-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)ureido]benzoate
In 220 ml of ethanol was suspended 22.0 g of (R)-(−)-3-[3-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)ureido]benzoic acid monohydrate. Under ice cooling, the resulting suspension was dissolved in 26.4 ml of concentrated aqueous ammonia. To the reaction mixture was added 22 ml of an aqueous solution of 3.05 g of calcium chloride, followed by stirring for 30 minutes. Water was added. The precipitate was collected by filtration and washed with a mixed solvent of water and ethanol (2:1), whereby 21.0 g of the title compound as powder was obtained.

reactant | (R)-(−)-3-[3-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)ureido]benzoic acid monohydrate | 22.0 g | O.C(C)(C)(C)C(=O)CN1C([C@@H](CN(C2=C1C=CC=C2)C2CCCCC2)NC(NC=2C=C(C(=O)O)C=CC2)=O)=O
reactant | calcium chloride | 3.05 g | [Cl-].[Ca+2].[Cl-]
reactant | Water | O | H2O
solvent | ethanol | 220 ml | C(C)O | C2H6O
solvent | ammonia | 26.4 ml | N | H3N
product | calcium (R)-(−)-3-[3-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)ureido]benzoate | 21.0 g | C(C)(C)(C)C(=O)CN1C([C@@H](CN(C2=C1C=CC=C2)C2CCCCC2)NC(NC=2C=C(C(=O)[O-])C=CC2)=O)=O.[Ca+2].C(C)(C)(C)C(=O)CN2C([C@@H](CN(C1=C2C=CC=C1)C1CCCCC1)NC(NC=1C=C(C(=O)[O-])C=CC1)=O)=O | InChI=1S/2C29H36N4O5.Ca/c2*1-29(2,3)25(34)18-33-24-15-8-7-14-23(24)32(21-12-5-4-6-13-21)17-22(26(33)35)31-28(38)30-20-11-9-10-19(16-20)27(36)37;/h2*7-11,14-16,21-22H,4-6,12-13,17-18H2,1-3H3,(H,36,37)(H2,30,31,38);/q;;+2/p-2/t2*22-;/m11./s1
